US04147864
(di) The crude 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid p-nitrobenzyl ester obtained according to Example 1.cvii) is dissolved in 20 ml of methyl acetate and ozonised at -70° C. until starting material is no longer present, according to a thin layer chromatogram. A stream of nitrogen is then passed through the solution and the latter is warmed to 0°-5° C. A solution of 300 mg of sodium bisulphite in 5 ml of water is added and the mixture is stirred for about 5 minutes until no further ozonide is detectable by means of potassium iodide/-starch paper. The mixture is diluted with ethyl acetate, the aqueous phase is separated off and the organic phase is washed with water, dried over magnesium sulphate and freed from the solvent in vacuo. The crude product is dissolved in 3 ml of methylene chloride and 15 ml of toluene are added. The precipitate is filtered off and the filtrate is concentrated by evaporation in vacuo. The residue is recrystallised from methanol and gives 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid p-nitrobenzyl ester of melting point 159°-160° C. 155°-

reactant | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-methylene-butyric acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(C(C(C)=C)N2C(C(C2SS(=O)(=O)C2=CC=C(C=C2)C)NC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C30H29N3O9S2
reactant | sodium bisulphite | 300 mg | S([O-])(O)=O.[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | methyl acetate | 20 ml | C(C)(=O)OC | C3H6O2
solvent | water | 5 ml | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[4-(p-toluenesulphonylthio)-3-phenoxyacetamido-2-oxoazetidin-1-yl]-3-hydroxy-crotonic acid p-nitrobenzyl ester | [N+](=O)([O-])C1=CC=C(COC(\C(=C(\C)/O)\N2C(C(C2SS(=O)(=O)C2=CC=C(C=C2)C)NC(COC2=CC=CC=C2)=O)=O)=O)C=C1 | C29H27N3O10S2
